US06046201
N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To 4.07 g of potassium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate and 3.00 g of 12-aminododecanol was added 50 ml of chloroform and then 2.01 g of 1-hydroxybenzotriazole (HOBt) and 3.07 g of 1,3-dicyclohexylcarbodiimide (DCC) were added thereto while stirring at room temperature and then the mixture was stirred at room temperature for 17 hours. A further 50 ml of chloroform was added, the mixture was stirred and then insolubles were filtered off. After the residue on a filter paper was washed with chloroform, the washing and the chloroform solution were combined and washed with a 10% aqueous solution of sodium hydroxide and dried over anhydrous magnesium sulfate. After the chloroform solution was concentrated, diisopropyl ether was added and the crystal thus separated out was recovered by filtration and dried under reduced pressure to afford 5.10 g of the title compound as a crystal.

reactant | potassium 6-(4-ethyl-1-piperazinyl)-pyridine-3-carboxylate | 4.07 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)[O-].[K+]
reactant | 12-aminododecanol | 3.00 g | NCCCCCCCCCCCCO | C12H27NO
reactant | 1-hydroxybenzotriazole | 2.01 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-dicyclohexylcarbodiimide | 3.07 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 5.10 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
